US04735940
A mixture of 20 g of 6,7-dihydro-4-methyl-thieno[3,2-c]pyridine and 19.8 g of methyl 2-methylenephenylacetate was heated under an argon atomosphere to 80° for 2 hours and subsequently to 110° for 48 hours. Methanol was added to the cooled reaction mixture and the product was left to crystallize out. There was obtained 4,5,8,9-tetrahydro-8-phenyl-7H-thieno[3,2-a]quinolizin-7-one of m.p. 159°-161°.

reactant | 6,7-dihydro-4-methyl-thieno[3,2-c]pyridine | 20 g | CC1=NCCC2=C1C=CS2 | C8H9NS
reactant | methyl 2-methylenephenylacetate | 19.8 g | C=C1C(C=CC=C1)CC(=O)OC | C10H12O2
reactant | Methanol | CO | CH4O
product | 4,5,8,9-tetrahydro-8-phenyl-7H-thieno[3,2-a]quinolizin-7-one | C1(=CC=CC=C1)C1C(N2CCC3=C(C2=CC1)C=CS3)=O | C17H15NOS
